US04777258
To 7.4 g (0.0145 mol) of N,N'-bis(2,4,6-trinitrobenzoyl)hydrazine and 65 ml of 1,2-dichloroethane stirred in a 200 ml round bottom flask was added 7.4 g (0.0355 mol) of phosphorus pentachloride. The mixture was heated to reflux temperature in an oil bath and was held at this temperature for 2.5 hrs. The mixture was cooled to room temperature and the insoluble material (3.2 g of crude 2,5-dipicryl-1,3,4-oxadiazole, mp 318° C. (dec), was removed by filtration. The crude oxadiazole was dissolved in boiling acetone (300 ml), the solution was filtered and the filtrate was concentrated by distillation until much of the acetone had been removed and an appreciable amount of crystals had formed. Methanol was slowly added with continued distillation until the distillate temperature approached 65° C. The mixture was cooled to room temperature and filtered to give 2.9 g of pure 2,5-dipicryl1,3,4-oxadiazole, mp 335° C. (vigorous decomposition). NMR (DMSO-d6):9.52 (s).

reactant | N,N'-bis(2,4,6-trinitrobenzoyl)hydrazine | 0.0145 mol, 7.4 g | [N+](=O)([O-])C1=C(C(=O)NNC(C2=C(C=C(C=C2[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])=O)C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C14H6N8O14
reactant | 1,2-dichloroethane | 65 ml | ClCCCl | C2H4Cl2
reactant | phosphorus pentachloride | 0.0355 mol, 7.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | Methanol | CO | CH4O
product | 2,5-dipicryl1,3,4-oxadiazole | 2.9 g | C1(=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1[N+](=O)[O-])C=1OC(=NN1)C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1[N+](=O)[O-] | C14H4N8O13
